US05292760
2-Amino-5-bromo-N,N-dimethyl-α-(3-methyl-2-thienyl)benzeneethanamine
To a solution of 6.0 g of 2-amino-N,N-dimethyl-α-(3-methyl-2-thienyl)benzeneethanamine in 30 ml of dimethylformamide, was added 5.32 g of N-bromosuccinimide in 30 ml of dimethylformamide, with stirring, and the mixture was stirred overnight at room temperature. The solution was concentrated, basified with 10% sodium hydroxide solution, and extracted with dichloromethane. The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by preparative HPLC (Water's Associates Prep LC/System 500a, silica gel, eluted with methanol, flow rate of 200 ml/min, Gow Mac model 80-800 UV detector). The appropriate fractions were collected and concentrated. The residue was dissolved in 100 ml of diethylether and filtered. The filtrate was concentrated. The residue was triturated in hexane to give 2.2 g of product, mp 96°-98° C.

reactant | 2-amino-N,N-dimethyl-α-(3-methyl-2-thienyl)benzeneethanamine | 6.0 g | NC1=C(C=CC=C1)CC(N(C)C)C=1SC=CC1C | C15H20N2S
reactant | N-bromosuccinimide | 5.32 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Amino-5-bromo-N,N-dimethyl-α-(3-methyl-2-thienyl)benzeneethanamine | 2.2 g | NC1=C(C=C(C=C1)Br)CC(N(C)C)C=1SC=CC1C | C15H19BrN2S
